US08039460B2
tert-Butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(1-hydroxy-1-methylethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate
Methylmagnesium bromide (3.0 M in ether; 90 μL, 0.27 mmol) was added to a solution of tert-butyl (6S,9R)-3-acetyl-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate (22 mg, 0.05 mmol) in tetrahydrofuran (1 mL) at 0° C., and the reaction mixture was allowed to warm to ambient temperature. After 30 min, the reaction was quenched with water and the mixture was extracted with dichloromethane (3×). The organic layer was washed with water, saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (15 mg). MS 422.2 (M+1).

reactant | Methylmagnesium bromide | 0.27 mmol, 3.0 M, 90 μL | C[Mg]Br
reactant | tert-butyl (6S,9R)-3-acetyl-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 0.05 mmol, 22 mg | C(C)(=O)C1=CN=C2N1C[C@@H](CC[C@H]2NC(OC(C)(C)C)=O)C2=C(C(=CC=C2)F)F | C21H25F2N3O3
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | tert-Butyl (6S,9R)-6-(2,3-difluorophenyl)-3-(1-hydroxy-1-methylethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-ylcarbamate | 15 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C(C)(C)O)NC(OC(C)(C)C)=O | C22H29F2N3O3
